US06355653B1
7-(4-Methoxy-phenyl)-2-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine
A mixture of 72.5 mg (0.25 mmol) 7-bromo-2-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine, 37.4 mg (0.275 mmol) p-methoxy-boronic acid, and 0.22 ml 2M Na2CO3 in 0.78 ml dioxane was treated with 0.05 eq. dichloro (1,1′-bis(diphenylphosphino) ferrocene)palladium (II) dichloromethane adduct and heated to 100° C. for 15 h. Formic acid was added and the mixture was purified by reversed phase column chromatography eluting with an acetonitrile/water gradient yielding 13.3 mg (17%) of the title compound. MS m/e (%): 318 (M+H+, 100)

reactant | 7-bromo-2-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | 0.25 mmol, 72.5 mg | BrC1=CC=2N(C(=C1)N)N=C(N2)C2=NC=CC=C2 | C11H8BrN5
reactant | Na2CO3 | 2M, 0.22 ml | C(=O)([O-])[O-].[Na+].[Na+]
reactant | Formic acid | C(=O)O | CH2O2
reactant | dioxane | 0.78 ml | O1CCOCC1 | C4H8O2
catalyst | dichloro (1,1′-bis(diphenylphosphino) ferrocene)palladium (II) dichloromethane adduct | 0.05 eq. | [CH-]1C=CC(=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.[CH-]1C=CC(=C1)P(C2=CC=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | 7-(4-Methoxy-phenyl)-2-pyridin-2-yl-[1,2,4]triazolo[1,5-a]pyridin-5-ylamine | 13.3 mg, 17% | COC1=CC=C(C=C1)C1=CC=2N(C(=C1)N)N=C(N2)C2=NC=CC=C2 | C18H15N5O
